US08071592B2
(e) 10-(2-propen-1-yl)-2,3-dihydro[1,4]dioxino[2,3-h]quinolin-9(10H)-one
10-(2-Propen-1-yl)-2,3-dihydro[1,4]dioxino[2,3-h]quinolin-10-ium iodide (5.91 g; 16.65 mmol), KOH (4.10 g; 73.26 mmol) and K3-[Fe(CN)6] (12.05 g; 36.63 mmol) were stirred in 50% aqueous 1,4-dioxane at RT for 1.5 h. Water (250 ml) was added and the aqueous layer was extracted with 10% MeOH/DCM (150 ml) and the organics were washed with water (250 ml). The organics were dried with MgSO4 and the solvents removed. The crude residues were purified by column chromatography on silica gel using a 0-7% MeOH/DCM gradient to give the desired product (2.6 g; 65%). MS (ES+) m/z 244 (MH+).

reactant | 10-(2-Propen-1-yl)-2,3-dihydro[1,4]dioxino[2,3-h]quinolin-10-ium iodide | 16.65 mmol, 5.91 g | [I-].C(C=C)[N+]1=CC=CC=2C=CC3=C(C12)OCCO3
reactant | KOH | 73.26 mmol, 4.10 g | [OH-].[K+]
reactant | Water | 250 ml | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 10-(2-propen-1-yl)-2,3-dihydro[1,4]dioxino[2,3-h]quinolin-9(10H)-one | 2.6 g, 65% | C(C=C)N1C(C=CC=2C=CC3=C(C12)OCCO3)=O | C14H13NO3
